US09145354B2
Step 2 {(R)-1-[4-Chloro-3-(6-chloro-pyridine-3-carbonyl)-2-fluoro-phenyl]-propyl}-carbamic acid tert-butyl ester (6.4 g, 15 mmol) was suspended in 7M NH3 in MeOH (32 mL) and split over 4 Reacti-vials and all heated at 100 degC overnight. The mixture was then evaporated down and purified by silica column, eluting 20-100% EtOAc in petroleum ether to give {(R)-1-[3-(6-amino-pyridine-3-carbonyl)-4-chloro-2-fluoro-phenyl]-propyl}-carbamic acid tert-butyl ester (3.1 g, 7.6 mmol, 51%). [MH]+ 408

reactant | {(R)-1-[4-Chloro-3-(6-chloro-pyridine-3-carbonyl)-2-fluoro-phenyl]-propyl}-carbamic acid tert-butyl ester | 15 mmol, 6.4 g | C(C)(C)(C)OC(N[C@H](CC)C1=C(C(=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)Cl)F)=O | C20H21Cl2FN2O3
reactant | NH3 | 7M | N | H3N
solvent | MeOH | 32 mL | CO | CH4O
product | {(R)-1-[3-(6-amino-pyridine-3-carbonyl)-4-chloro-2-fluoro-phenyl]-propyl}-carbamic acid tert-butyl ester | 7.6 mmol, 3.1 g, 51% | C(C)(C)(C)OC(N[C@H](CC)C1=C(C(=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)N)F)=O | C20H23ClFN3O3
